US05925624
1-Deoxy-1-[6-[(2,2-diphenylethyl)amino]-2-[(2-hydroxyphenyl)amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide
A mixture of 1-[2-chloro6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide (0.20 g, 0.38 mmol), 2-aminophenol (0.20 g, 1.83 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.052 ml, DBU) and dimethylsulphoxide (1 ml) was stirred and heated at 140° C. under nitrogen for 6h, and then left at 21° C. overnight. The mixture was partitioned between ethyl acetate (200 ml) and water (40 ml). The aqueous layer was extracted with more ethyl acetate (50 ml) and the total organic solution was washed (water, 20 ml), dried (Na2SO4) and evaporated. The residue was purified on flash silica eluting with dichloromethane:methanol (19:1), and then by preparative TLC (20×20 cm plate with 2 mm layer of Kieselgel 60 F254 ; Art 5717) in dichloromethane:ethyl acetate:ethanol 9:9:2, and then by preparative HPLC (30 to 70% acetonitrile) to give the title compound (0.018 g) as a cream foam, MH+ =596. Analysis found: C,52.2, H,4.3, N,11.8; C32H33N7O5.2CF3CO2H requires C,52.5, H,4.3, N,11.9%.

reactant | 1-[2-chloro6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide | 0.38 mmol, 0.20 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27ClN6O4
reactant | 2-aminophenol | 1.83 mmol, 0.20 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.052 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylsulphoxide | 1 ml | CS(=O)C | C2H6OS
product | 1-Deoxy-1-[6-[(2,2-diphenylethyl)amino]-2-[(2-hydroxyphenyl)amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide | 0.018 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)NC1=C(C=CC=C1)O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)C1=CC=CC=C1 | C32H33N7O5
